US06284902B1
A solution of distilled water (10 ml), (S)-3-acetoxy-4-bromobutyric acid (0.9 g, 0.004 mol) and calcium hydroxide (0.45 g, 0.006 mol) was charged to 100 ml flask equipped with a thermometer, pH meter and agitator, and stirred at 0˜5° C. for 2 hours to give (S)-3,4-epoxybutyric acid calcium salt. It was confirmed by a NMR analysis that more than 99% (S)-3,4-epoxybutyric acid calcium salt was converted.

reactant | (S)-3-acetoxy-4-bromobutyric acid | 0.004 mol, 0.9 g | C(C)(=O)O[C@@H](CC(=O)O)CBr | C6H9BrO4
reactant | calcium hydroxide | 0.006 mol, 0.45 g | [OH-].[Ca+2].[OH-]
solvent | water | 10 ml | O | H2O
product | (S)-3,4-epoxybutyric acid calcium salt | [Ca+2].O1[C@@H](CC(=O)[O-])C1.O1[C@@H](CC(=O)[O-])C1 | InChI=1S/2C4H6O3.Ca/c2*5-4(6)1-3-2-7-3;/h2*3H,1-2H2,(H,5,6);/q;;+2/p-2/t2*3-;/m00./s1
